US07915297B2
To a solution of 5-furan-2-yl-isoxazole-3-carboxylic acid (7 mg) and 3-imidazol-1-yl-propyl amine (0.005 mL) in DMF was added 8 mg of HOBt, 9 mg of EDC and 0.014 mL of TEA. After stirring at room temperature for 18 hrs, the reaction solution was concentrated in vacuo. The obtained concentrate was purified by preparative HPLC to afford 4 mg of 5-furan-2-yl-isoxazole-3-carboxylic acid (3-imidazol-1-yl-propyl)-amide (Yield: 35%).

reactant | 5-furan-2-yl-isoxazole-3-carboxylic acid | 7 mg | O1C(=CC=C1)C1=CC(=NO1)C(=O)O | C8H5NO4
reactant | 3-imidazol-1-yl-propyl amine | 0.005 mL | N1(C=NC=C1)CCCN | C6H11N3
reactant | HOBt | 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 9 mg
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-furan-2-yl-isoxazole-3-carboxylic acid (3-imidazol-1-yl-propyl)-amide | 4 mg, Yield: 35% | N1(C=NC=C1)CCCNC(=O)C1=NOC(=C1)C=1OC=CC1 | C14H14N4O3
